US06759554B2
N-(3,5-Dimethylphenyl)benzophenone Imine
An oven-dried resealable Schlenk tube was charged with CuI (2.0 mg, 0.0105 mmol, 1.0 mol %), sodium tert-butoxide (150 mg, 1.56 mmol), evacuated and backfilled with argon. trans-1,2-Cyclohexanediamine (13 μL, 0.108 mmol, 11 mol %), dodecane (235 μL), 5-iodo-m-xylene (150 μL, 1.04 mmol), benzophenone imine (210 μL, 1.25 mmol) and dioxane (1.0 mL) were added under argon. The Schlenk tube was sealed and the reaction mixture was stirred magnetically at 110° C. for 36 h. The resulting dark brown suspension was cooled to room temperature and filtered through a 0.5×1 cm pad of silica gel eluting with 10 mL of ethyl acetate. The filtrate was concentrated and the residue was purified by flash chromatography on silica gel (2×15 cm; hexane-ethyl acetate 30:1; 15 mL fractions). Fractions 6-11 provided 46 mg (15% yield) of the product as a pale tan solid. 1H NMR (300 MHz, CDCl3): δ 7.79−7.75 (m, 2H), 7.52-7.40 (m, 3H), 7.34−7.26 (m, 3H), 7.20−7.15 (m, 2H), 6.60 (s, 1H), 6.39 (s, 2H), 2.19 (s, 6H).

reactant | sodium tert-butoxide | 1.56 mmol, 150 mg | CC(C)([O-])C.[Na+]
reactant | trans-1,2-Cyclohexanediamine | 0.108 mmol, 13 μL | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
reactant | dodecane | 235 μL | CCCCCCCCCCCC | C12H26
reactant | 5-iodo-m-xylene | 1.04 mmol, 150 μL | IC=1C=C(C=C(C1)C)C | C8H9I
reactant | benzophenone imine | 1.25 mmol, 210 μL | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
catalyst | CuI | 0.0105 mmol, 2.0 mg | [Cu]I
solvent | dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
product | N-(3,5-Dimethylphenyl)benzophenone Imine | 46 mg, 15% yield | CC=1C=C(C=C(C1)C)N=C(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19N
